US09422267B2
To a solution of 6-fluoropyridin-3-amine (1.41 g, 12.5 mmol) in THF (30 mL) was added 2M solution of isopropylmagnesium chloride in THF (6.2 mL, 12.4 mmol) dropwise at 0° C. The resultant mixture was stirred at the same temperature for 20 min followed by the dropwise addition of a solution of methyl 1-(4-(5-isopropyl-1H-pyrrol-3-ylamino)-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-2-carboxylate (1.2 g, 3.12 mmol) in THF (10 mL) at 0° C. The reaction mixture was stirred at RT for 2 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was quenched with saturated aqueous NH4Cl (40 mL) and was extracted with EtOAc (3×50 mL). The organic layer was washed with water (50 mL), dried over anhydrous sodium sulfate and concentrated under vacuum to obtain a crude product which was purified by column chromatography on silica (100-200 mesh using 1% MeOH-DCM system as eluent to afford N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrrol-3-ylamino)-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-2-carboxamide (750 mg) as racemate. The enantiomers were separated by chiral HPLC to afford (R)—N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrazol-3-ylamino)-5,6,7,8 tetrahydroquinazolin-2-yl)pyrrolidine-2-carboxamide (200 mg), and its (S) enantiomer. 1H NMR (400 MHz, CDCl3, freebase) δ (ppm): 1.10-1.30 (m, 6H), 1.80-2.20 (m, 7H), 2.35-2.46 (m, 2H), 2.58-2.80 (m, 3H), 2.81-2.99 (m, 1H), 3.58-3.77 (m, 2H), 4.75 (brs, 1H), 6.20 (s, 1H), 6.83 (dd, 1H), 6.95 (s, 1H), 7.91 (s, 1H), 8.18 (s, 1H), 10.80 (brs, 1H).

reactant | 6-fluoropyridin-3-amine | 12.5 mmol, 1.41 g | FC1=CC=C(C=N1)N | C5H5FN2
reactant | isopropylmagnesium chloride | C(C)(C)[Mg]Cl
reactant | methyl 1-(4-(5-isopropyl-1H-pyrrol-3-ylamino)-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-2-carboxylate | 3.12 mmol, 1.2 g | C(C)(C)C1=CC(=CN1)NC1=NC(=NC=2CCCCC12)N1C(CCC1)C(=O)OC | C21H29N5O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 12.4 mmol, 6.2 mL | C1CCOC1 | C4H8O
product | N-(6-fluoropyridin-3-yl)-1-(4-(5-isopropyl-1H-pyrrol-3-ylamino)-5,6,7,8-tetrahydroquinazolin-2-yl)pyrrolidine-2-carboxamide | 750 mg | FC1=CC=C(C=N1)NC(=O)C1N(CCC1)C1=NC=2CCCCC2C(=N1)NC1=CNC(=C1)C(C)C | C25H30FN7O
